*Chebyshev Band Pass Filter

*** *** FILTER CIRCUIT *** ***
C1 (1 0) capacitor c=#C1# // #CSMD_50p80p#
L1 (1 0) inductor  l=#L1# // #LBOND_350p450p#

L2 (1 2) inductor  l=#L2# // #LBOND_60n100n#
C2 (2 3) capacitor c=#C2# // #CSMD_300f340f#

C3 (3 0) capacitor c=#C3# // #CSMD_50p80p#
L3 (3 0) inductor  l=#L3# // #LBOND_350p450p#


*** *** PORT *** ***
port1 (1 0) port r=50 num=1
port2 (3 0) port r=50 num=2

*** *** ANALYSIS *** ***
analysisAC2 sp dec=1000 start=800M stop=1200M ports=[port1 port2] file="filename"
// End of Netlist
